US07008950B1
3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-5-(4-methylthiobenzyloxy)-2,3-dihydrobenzofuran
Using 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol and 4-(bromomethyl)phenyl methyl sulfide, the title compound was obtained in the same manner as in Example 1.

reactant | 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)O)C)(C)C | C22H28O2
reactant | 4-(bromomethyl)phenyl methyl sulfide | CSC1=CC=C(C=C1)CBr | C8H9BrS
product | 3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-5-(4-methylthiobenzyloxy)-2,3-dihydrobenzofuran | Yield: 70% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)OCC2=CC=C(C=C2)SC)C)(C)C | C30H36O2S
